US06489344B1
1 mmol 2,6-dichloro-3-nitropyridine, 1.05 mmol of 2,4-dichlorobenzeneboronic acid, and 3 mmol of Na2CO3, were dissolved in 1.5 ml THF and 0.5 ml water and purged with nitrogen. 0.05 mmol of [1,1′-Bis(diphenylphosphino)-ferrocene]dichloro-palladium(II) was added to reaction and stirred at room temperature under nitrogen for fourteen hours. The reaction mixture was concentrated in vacuo and diluted with water and ethyl acetate. The solution was extracted three times with ethyl acetate, dried over sodium sulfate, and purified by column chromatography eluting with 10% ethylacetate 90% hexanes to obtain 2-(2,4-dichlorophenyl)-6-chloro-3-nitropyridine.

reactant | 2,6-dichloro-3-nitropyridine | 1 mmol | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | 2,4-dichlorobenzeneboronic acid | 1.05 mmol | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 3 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 2-(2,4-dichlorophenyl)-6-chloro-3-nitropyridine | ClC1=C(C=CC(=C1)Cl)C1=NC(=CC=C1[N+](=O)[O-])Cl | C11H5Cl3N2O2
